US04273929
To a sodium methylate solution prepared by the addition of 3.2 g. of sodium to 125 ml. of methanol are added 12.6 g. of 3-ethoxy-2-(p-n-heptylphenyl)acrolein and then 9.9 g. of trans-4-carbamoylcyclohexane-carboxamidine hydrochloride. The mixture is stirred at 50° C. overnight. The mixture is then acidified with dilute hydrochloric acid and the suspension is filtered. The residue is washed neutral and dried in vacuo. For purification, the residue is boiled with ether. There is obtained trans-4-[5-(p-n-heptylphenyl)-2-pyrimidinyl]cyclohexane carboxamide which is difficultly soluble.

reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | 3-ethoxy-2-(p-n-heptylphenyl)acrolein | C(C)OC=C(C=O)C1=CC=C(C=C1)CCCCCCC | C18H26O2
reactant | trans-4-carbamoylcyclohexane-carboxamidine hydrochloride | Cl.C(N)(=O)[C@@H]1CC[C@H](CC1)C(=N)N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | trans-4-[5-(p-n-heptylphenyl)-2-pyrimidinyl]cyclohexane carboxamide | C(CCCCCC)C1=CC=C(C=C1)C=1C=NC(=NC1)[C@@H]1CC[C@H](CC1)C(=O)N | C24H33N3O
